US07074794B2
Diethanolamine (20 mL) was added to 4-chloro-2-trifluoromethylquinoline (5.04 g), and the mixture was stirred at 80° C. for 19 hr. Brine was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried and concentrated under reduced pressure. The residue was purified by silica gel chromatography to give 4-[N,N-bis(2-hydroxyethyl)amino]-2-trifluoromethylquinoline (3.40 g) as a white powder.

reactant | Diethanolamine | 20 mL | N(CCO)CCO | C4H11NO2
reactant | 4-chloro-2-trifluoromethylquinoline | 5.04 g | ClC1=CC(=NC2=CC=CC=C12)C(F)(F)F | C10H5ClF3N
solvent | Brine | [Cl-].[Na+].O
product | 4-[N,N-bis(2-hydroxyethyl)amino]-2-trifluoromethylquinoline | 3.40 g | OCCN(CCO)C1=CC(=NC2=CC=CC=C12)C(F)(F)F | C14H15F3N2O2
